US08183255B2
Intermediate M1(i): 3-[(4-ethoxypyrimidin-2-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carbonyl chloride
To a −78° C. solution of N-(4-ethoxypyrimidin-2-yl)-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine hydrochloride (0.300 g, 1.09 mmol) in CH2Cl2 (15 mL) and diisopropylethylamine (0.952 mL, 5.47 mmol) was added triphosgene (0.227 g, 0.766 mmol) in CH2Cl2 (5 mL) dropwise over 10 min. The reaction was quenched with H2O (10 mL), warmed to 22° C., and made pH 8-9 with NaHCO3. The aqueous layer was extracted with CH2Cl2 (2×30 mL) and the combined organic layers washed with brine (1×30 mL), dried over MgSO4, and concentrated to give the desired product M1(i) as a brown solid (0.35 g, 95%). Mass Spectrum: Calcd for C14H18ClN6O2 (M+H): 337. Found: 337.

reactant | N-(4-ethoxypyrimidin-2-yl)-6,6-dimethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazol-3-amine hydrochloride | 1.09 mmol, 0.300 g | Cl.C(C)OC1=NC(=NC=C1)NC=1C2=C(NN1)C(NC2)(C)C
reactant | diisopropylethylamine | 5.47 mmol, 0.952 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.766 mmol, 0.227 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[(4-ethoxypyrimidin-2-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carbonyl chloride | C(C)OC1=NC(=NC=C1)NC=1C2=C(NN1)C(N(C2)C(=O)Cl)(C)C | C14H17ClN6O2
